US07053222B2
2-(2,4-dimethoxyphenyl)-3-(2-nitrobenzenesulfenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester
A hot solution of 6.6 g N-(2-nitrobenzenesulfenyl)-3-phenylisoserine in 100 ml of dry benzene is added with 0.5 g of pyridinium p-toluenesulfonate and 5.3 g of 2,4-dimethoxybenzaldehyde dimethylacetal. The solution is refluxed for 4 hours, then left to cool to room temperature. After that, 10 ml of a NaHCO3 saturated solution are added and the phases are separated. The aqueous phase is extracted with ethyl acetate and the combined organic phases are dried over Na2SO4 and evaporated under reduced pressure. The residual yellow oil is purified by chromatography (silica,hexane-ethyl acetate 5:1 with 2% triethylamine) to give the desired product in 74% yield.

reactant | N-(2-nitrobenzenesulfenyl)-3-phenylisoserine | 6.6 g | [N+](=O)([O-])C1=C(C=CC=C1)SNC(C(O)C(=O)O)C1=CC=CC=C1 | C15H14N2O5S
reactant | pyridinium p-toluenesulfonate | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2,4-dimethoxybenzaldehyde dimethylacetal | 5.3 g | COC(C1=C(C=C(C=C1)OC)OC)OC | C11H16O4
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,4-dimethoxyphenyl)-3-(2-nitrobenzenesulfenyl)-4-phenyl-5-oxazolidinecarboxylic acid methyl ester | 74% yield | COC(=O)C1C(N(C(O1)C1=C(C=C(C=C1)OC)OC)SC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C25H24N2O7S
